US07763639B2
4-[2-FLUORO-3-(TRIFLUOROMETHOXY)PHENYL]-1-PROPYL-PIPERIDINE
Preparation according to preparation 18: 4-[2-fluoro-3-(trifluoromethoxy)phenyl]-1-propyl-1,2,3,6-tetrahydro-pyridine (0.55 g, 1.8 mmol), palladium on carbon (0.09 g) and hydrochloric acid (0.5 ml, conc). Yield: 0.22 g (40%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 221-222° C. MS m/z (relative intensity, 70 eV) 305 (M+, 3), 277 (14), 276 (bp), 233 (6) 193 (8).

reactant | 4-[2-fluoro-3-(trifluoromethoxy)phenyl]-1-propyl-1,2,3,6-tetrahydro-pyridine | 1.8 mmol, 0.55 g | FC1=C(C=CC=C1OC(F)(F)F)C=1CCN(CC1)CCC | C15H17F4NO
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
catalyst | palladium on carbon | 0.09 g | [Pd] | Pd
product | 4-[2-FLUORO-3-(TRIFLUOROMETHOXY)PHENYL]-1-PROPYL-PIPERIDINE | FC1=C(C=CC=C1OC(F)(F)F)C1CCN(CC1)CCC | C15H19F4NO
